US08669361B2
5-amino-2-(2,6-difluorophenyl)-N-(1-methyl-5-(1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrazol-4-yl)thiazole-4-carboxamide 258
tert-butyl 2-(2,6-difluorophenyl)-4-(1-methyl-5-(tert-butyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate (0.10 g, 0.16 mmol) was dissolved in MeOH (3 mL) and HCl in 1,4-dioxane (4.0

reactant | tert-butyl 2-(2,6-difluorophenyl)-4-(1-methyl-5-(tert-butyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 0.16 mmol, 0.10 g | FC1=C(C(=CC=C1)F)C=1SC(=C(N1)C(NC=1C=NN(C1C=1CCN(CC1)C(=O)OC(C)(C)C)C)=O)NC(OC(C)(C)C)=O | C29H34F2N6O5S
reactant | HCl | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 5-amino-2-(2,6-difluorophenyl)-N-(1-methyl-5-(1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrazol-4-yl)thiazole-4-carboxamide | NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)NC=1C=NN(C1C=1CCNCC1)C | C19H18F2N6OS
